US07524969B2
Step 1 Preparation of 1,1,1-trifluoro-2-trifluoromethyl-but-3-yn-2-ol
To a 100 ml solution of ethynyl magnesium bromide (0.5 M in THF) in an acetone-ethanol dry ice bath was bubbled hexafluoro acetone gas (6.1 g, 36.7 mmol) over 2 h. The reaction mixture was warmed to r.t and then refluxed for 0.5 h. The reaction mixture was quenched with aqueous NH4Cl solution and extracted with ether. The combined organic phases were washed with brine, and dried over MgSO4. A liquid mixture of 1,1,1-trifluoro-2-trifluoromethyl-but-3-yn-2-ol with THF at b.p. 100-103° C. (4.7 g, contained about 68 mol % THF) was obtained by distillation (12 inch Vigreux column).

reactant | ethynyl magnesium bromide | 0.5 M | C(#C)[Mg]Br
reactant | hexafluoro acetone | 36.7 mmol, 6.1 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
product | 1,1,1-trifluoro-2-trifluoromethyl-but-3-yn-2-ol | FC(C(C#C)(O)C(F)(F)F)(F)F | C5H2F6O
